US07482462B2
0.13 g of DIEA and 0.07 g of 1-fluoro-2-nitrobenzene are added to a solution of 0.22 g N-(piperidine-4-carbonyl)-3,5-bis-trifluoromethyl-benzenesulfonamide in the form of a hydrochloride in 4 ml of DMSO. The mixture obtained is stirred for ca. 18 h at 80°, solvent is evaporated and the evaporation residue is subjected to flash chromatography on silica gel (eluent: EtAc). N-[1-(2-Nitro-phenyl)-piperidine-4-carbonyl]-3,5-bis-trifluoromethyl-benzenesulfonamide is obtained.

reactant | DIEA | 0.13 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-fluoro-2-nitrobenzene | 0.07 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N-(piperidine-4-carbonyl)-3,5-bis-trifluoromethyl-benzenesulfonamide | 0.22 g | N1CCC(CC1)C(=O)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H14F6N2O3S
reactant | hydrochloride | Cl | ClH
solvent | DMSO | 4 ml | CS(=O)C | C2H6OS
product | N-[1-(2-Nitro-phenyl)-piperidine-4-carbonyl]-3,5-bis-trifluoromethyl-benzenesulfonamide | [N+](=O)([O-])C1=C(C=CC=C1)N1CCC(CC1)C(=O)NS(=O)(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C20H17F6N3O5S
